US07279469B2
5-Amino-3-(3-pyridylamino)-[1,2,4]triazole-1-carboxylic acid phenylamide:
To a solution of N3-(3-pyridyl)-1H-[1,2,4]triazole-3,5-diamine (0.43 mmol) in dry THF (3 mL) and dry DCM (3 mL) was added phenylisocyanate (0.43 mmol) dropwise over 1 minute, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo and the residue purified by column chromatography [Merck silica, eluted with EtOAc and Hexanes (4:1)] to afford compound the title compound (22.0 mg, 17%). 1H NMR (400 MHz, DMSO-d6) 7.17 (1H, t), 7.28 (1H, m), 7.39 (4H, m), 7.65 (2H, d), 8.09 (1H, m), 8.23 (1H, m), 8.79 (1H, d), 9.44 (1H, s), 9.64 (1H, s); MS (ES+): m/e=296.3 (100%).

reactant | N3-(3-pyridyl)-1H-[1,2,4]triazole-3,5-diamine | 0.43 mmol | N1=CC(=CC=C1)NC1=NNC(=N1)N | C7H8N6
reactant | phenylisocyanate | 0.43 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-Amino-3-(3-pyridylamino)-[1,2,4]triazole-1-carboxylic acid phenylamide | 22.0 mg, 17% | C1(=CC=CC=C1)NC(=O)N1N=C(N=C1N)NC=1C=NC=CC1 | C14H13N7O
